US06348032B1
Reduced iron (6.64 g), ethanol (48 ml) and acetic acid (24 ml) are added to 3-acetylamino-4-nitro-ethylbenzoate (3.00 g), and the solution is refluxed by heating for 12 hours. Solid materials are removed using filter aid, and the filtrate is concentrated under reduced pressure. Ethanol (100 ml) and 35% hydrochloric acid (5.2 g) are added to the residue and the solution is refluxed by heating for five hours. The reaction solution is neutralized with sodium bicarbonate (6.3 g). The filtrate obtained through filtration is concentrated under reduced pressure. Ethyl acetate (70 ml) and water (70 ml) are added to the obtained residue, and the solution is separated. The organic layer is washed with water three times and extraction is performed on the aqueous layer using ethyl acetate three times. By concentrating the obtained organic layer under reduced pressure, 5-ethoxycarbonyl-2-methylbenzimidazole (1.53 g ) powder is obtained. 1H-NMR (CDCl3, δ): 1.41 (3H, t, J=6.9 Hz), 2.67 (3H, s), 4.40 (2H, q, J=7.1 Hz), 7.55 (1H, d, J=8.4 Hz), 7.96 (1H, dd, J=8.4 and 1.5 Hz), 8.27 (1H, d, J=1.4 Hz).

reactant | ethanol | 48 ml | C(C)O | C2H6O
reactant | 3-acetylamino-4-nitro-ethylbenzoate | 3.00 g | C(C)(=O)NC=1C(=C(C(=O)[O-])C=CC1[N+](=O)[O-])CC
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 5-ethoxycarbonyl-2-methylbenzimidazole | 1.53 g | C(C)OC(=O)C1=CC2=C(N=C(N2)C)C=C1 | C11H12N2O2
